US04897385
1-[(4-Methoxyphenyl)diphenylmethoxy]-3-[4-(phenylmethoxy)-phenoxy]-2-propanol
To a solution of 18.9 g of 3-[4-(phenylmethoxy)-phenoxy]-1,2-propanediol in 50 ml of pyridine and 24 ml of tetrahydrofuran was added 25.57 g of methoxy trityl chloride in several portions. This mixture was stirred for 24 hours and the solvents removed under reduced pressure. The residue was dissolved in chloroform, washed with aqueous sodium bicarbonate, then water, dried and evaporated, giving 30 g of the desired compound.

reactant | 3-[4-(phenylmethoxy)-phenoxy]-1,2-propanediol | 18.9 g | C1(=CC=CC=C1)COC1=CC=C(OCC(CO)O)C=C1 | C16H18O4
reactant | methoxy trityl chloride | 25.57 g | COC1=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)Cl)C=CC=C1 | C20H17ClO
reactant | tetrahydrofuran | 24 ml | O1CCCC1 | C4H8O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 1-[(4-Methoxyphenyl)diphenylmethoxy]-3-[4-(phenylmethoxy)-phenoxy]-2-propanol | 30 g | COC1=CC=C(C=C1)C(OCC(COC1=CC=C(C=C1)OCC1=CC=CC=C1)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H34O5
